US05371096
A 0.694 g (0.00346 mole) suspension of 20% potassium hydride in mineral oil is washed twice with petroleum ether and resuspended in 5 ml of tetrahydrofuran. The suspension is cooled with stirring at -15 ° C. and a solution of 1.169 g (0.00346 mole) of (2S,3S,4R)-3-(3-t-butyldimethylsilyloxyprop-1-yl)-4-hydroxy-2-(3-pyridyl)tetrahydrofurane in 10 ml of tetrahydrofurane is added dropwise. After stirring the mixture for 2 min, 1.37 g (0.00346 mole) of 4-iodomethylbiphenyl is added at once and the mixture is stirred at -15° C. for 75 min. Concentrated ammonium chloride is added and the mixture is extracted with ether (2×20 ml). The combined extracts are washed with water and brine, dried (MgSO4) and evaporated. The residue is purified by flash chromatography using ethyl acetate-methylene chloride (1:1) to give (2S,3S,4R)-4-(biphenyl-4-ylmethoxy)-3-(3-t-butyldimethylsilyloxyprop-1-yl)-2 -(3-pyridyl)tetrahydrofuran as an oil having [α]D25 =+71.99 MeOH).

reactant | potassium hydride | [H-].[K+]
reactant | (2S,3S,4R)-3-(3-t-butyldimethylsilyloxyprop-1-yl)-4-hydroxy-2-(3-pyridyl)tetrahydrofurane | 0.00346 mole, 1.169 g | [Si](C)(C)(C(C)(C)C)OCCC[C@@H]1[C@H](OC[C@@H]1O)C=1C=NC=CC1 | C18H31NO3Si
reactant | 4-iodomethylbiphenyl | 0.00346 mole, 1.37 g | ICC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
product | (2S,3S,4R)-4-(biphenyl-4-ylmethoxy)-3-(3-t-butyldimethylsilyloxyprop-1-yl)-2 -(3-pyridyl)tetrahydrofuran | C1(=CC=C(C=C1)CO[C@@H]1[C@H]([C@H](OC1)C=1C=NC=CC1)CCCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C31H41NO3Si
